US07351733B2
6-Chloro-N-(4-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one and 4-fluoroaniline in a similar manner as described in Example 13 to give 63 mg (43% yield) of a yellow solid. 1H-NMR (CDCl3): δ 8.03 (s, 1H), 7.46 (m, 1H), 7.23-7.05 (m, 2H), 6.95 (m, 2H), 6.66 (m, 2H), 4.72 (s, 1H), 3.70 (s, 1H), 2.70 (m, 2H), 2.21 (m, 1H), 2.01 (m, 1H), 1.93-1.71 (m, 2H); MS m/z 313 (M−1).

reactant | 6-chloro-2,3,4,9-tetrahydro-1H-carbazol-1-one | ClC=1C=C2C=3CCCC(C3NC2=CC1)=O | C12H10ClNO
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 6-Chloro-N-(4-fluorophenyl)-2,3,4,9-tetrahydro-1H-carbazol-1-amine | ClC=1C=C2C=3CCCC(C3NC2=CC1)NC1=CC=C(C=C1)F | C18H16ClFN2
